US08980904B2
(2) Preparation of 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide (250 mg, 0.58 mmol) were dissolved in 20 mL of dichloromethane, m-CPBA (110 mg, 0.64 mmol) was added and reacted at room temperature for 12 h, washed with water after the reaction is complete, extracted with dichloromethane, the organic layer was dried, dried by rotation to obtain yellow solid 250 mg, yield 97%, this product was directly used in the next reaction without purification.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide | 0.58 mmol, 250 mg | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)SC)C=CC1OC | C19H18ClN5O3S
reactant | m-CPBA | 0.64 mmol, 110 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide | 250 mg, yield 97% | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H18ClN5O4S
